US07091230B2
Step 2 Preparation of 2,4-Dihydroxy-3-propylbenzophenone
A solution of 2,4-dihydroxy-3-(2-propenyl)benzophenone (3 g) was reduced under ˜1 atm H2 in ethyl acetate (100 mL) over 10% Pd/C catalyst (0.3 grams) for 3 hours. The product was purified by crystallization from methanol/water. The product is obtained as small yellow plates.

reactant | 2,4-dihydroxy-3-(2-propenyl)benzophenone | 3 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1CC=C)O | C16H14O3
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.3 grams | [Pd] | Pd
product | 2,4-Dihydroxy-3-propylbenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1CCC)O | C16H16O3
